US07262212B2
A mixture of tert-butyl N-(1-benzylpiperidin-4-yl)-N-[2-(4-trifluoromethylphenyl)ethyl]carbamate (0.437 g, 0.944 mmol) prepared in Reference Example 120 and 20% palladium hydroxide/carbon (100 mg) in ethanol (20 ml) was stirred at room temperature under an atmospheric pressure of hydrogen. The reaction mixture was filtered through Celite, and the filtrate was concentrated under reduced pressure to afford tert-butyl N-(piperidin-4-yl)-N-[2-(4-trifluoromethylphenyl)ethyl]carbamate (0.332 g, yield 94%) as a colorless oil.

reactant | tert-butyl N-(1-benzylpiperidin-4-yl)-N-[2-(4-trifluoromethylphenyl)ethyl]carbamate | 0.944 mmol, 0.437 g | C(C1=CC=CC=C1)N1CCC(CC1)N(C(OC(C)(C)C)=O)CCC1=CC=C(C=C1)C(F)(F)F | C26H33F3N2O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium hydroxide/carbon | 100 mg | [OH-].[OH-].[Pd+2]
product | tert-butyl N-(piperidin-4-yl)-N-[2-(4-trifluoromethylphenyl)ethyl]carbamate | 0.332 g, yield 94% | N1CCC(CC1)N(C(OC(C)(C)C)=O)CCC1=CC=C(C=C1)C(F)(F)F | C19H27F3N2O2
